US07291619B2
1-Boc-4-[2-(methanesulfonylamino-methyl)-phenyl]-piperazine
1-Boc-4-(2-aminomethyl-phenyl)-piperazine (2.09 g, 7.18 mmol) was dissolved in methylene chloride (50 mL), cooled to 0° C. and treated with triethylamine (1.5 mL, 10.8 mmol) followed by methanesulfonyl chloride (0.67 mL, 8.61 mmol). The resulting mixture was stirred for about 3 hours at r.t., and then diluted with ether (200 mL) and washed with water (50 mL), saturated aqueous sodium bicarbonate (50 mL) and brine (50 mL), which is then dried over anhydrous magnesium sulfate. Concentration under reduced pressure followed by silica gel chromatography (30% ethyl acetate in hexanes) afforded the title compound (2.07 g, 78%) as a clear oil.

reactant | 1-Boc-4-(2-aminomethyl-phenyl)-piperazine | 7.18 mmol, 2.09 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN | C16H25N3O2
reactant | triethylamine | 10.8 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.61 mmol, 0.67 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 200 mL | CCOCC | C4H10O
product | 1-Boc-4-[2-(methanesulfonylamino-methyl)-phenyl]-piperazine | 2.07 g, 78% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CNS(=O)(=O)C | C17H27N3O4S
